*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_3333_6000
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 43.7283
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 43.7283
cd_0_0_0_0 nd_1_0_666_666_ci 0 4.5737e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 40.3889
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 40.3889
cd_0_0_0_1 nd_1_0_2000_666_ci 0 4.95185e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 55.3284
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 55.3284
cd_0_0_0_2 nd_1_0_3333_666_ci 0 3.61478e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 50.3674
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 50.3674
cd_0_0_0_3 nd_1_0_4666_666_ci 0 3.97083e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 107.108
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 107.108
cd_0_0_0_4 nd_1_0_6000_666_ci 0 1.86728e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 90.0377
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 90.0377
cd_0_0_0_5 nd_1_0_7333_666_ci 0 2.22129e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 1791.01
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 1791.01
cd_0_0_0_6 nd_1_0_8666_666_ci 0 1.11669e-12
rdload_0_0_0_7 nd_1_0_666_2000 0 165.216
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 165.216
cd_0_0_0_7 nd_1_0_666_2000_ci 0 1.21053e-11
rdload_0_0_0_8 nd_1_0_2000_2000 0 126.1
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 126.1
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 1.58605e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 101.77
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 101.77
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.96521e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 85.6837
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 85.6837
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 2.33417e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 74.0078
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 74.0078
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 2.70242e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 152.785
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 152.785
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 1.30903e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 48.2456
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 48.2456
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 4.14545e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 44.5183
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 44.5183
cd_0_0_0_14 nd_1_0_666_3333_ci 0 4.49253e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 40.8638
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 40.8638
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 4.89431e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 71.9467
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 71.9467
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 2.77984e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 63.4637
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 63.4637
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 3.15141e-11
rdload_0_0_0_18 nd_1_0_6000_3333 0 47.3991
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 47.3991
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 4.21949e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 43.3793
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 43.3793
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 4.6105e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 80.5182
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 80.5182
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 2.48391e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 526.52
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 526.52
cd_0_0_0_21 nd_1_0_666_4666_ci 0 3.79852e-12
rdload_0_0_0_22 nd_1_0_2000_4666 0 265.043
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 265.043
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 7.54595e-12
rdload_0_0_0_23 nd_1_0_3333_4666 0 46.0744
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 46.0744
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 4.3408e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 90.7932
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 90.7932
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 2.20281e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 1735.94
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 1735.94
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 1.15211e-12
rdload_0_0_0_26 nd_1_0_7333_4666 0 68.2659
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 68.2659
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 2.92972e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 60.3648
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 60.3648
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 3.31319e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 45.248
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 45.248
cd_0_0_0_28 nd_1_0_666_6000_ci 0 4.42009e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 41.7123
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 41.7123
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 4.79475e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 75.4274
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 75.4274
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 2.65156e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 66.1953
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 66.1953
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 3.02136e-11
rdload_0_0_0_32 nd_1_0_6000_6000 0 58.6262
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 58.6262
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 3.41144e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 44.5779
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 44.5779
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 4.48653e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 41.186
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 41.186
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 4.85602e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 730.166
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 730.166
cd_0_0_0_35 nd_1_0_666_7333_ci 0 2.7391e-12
rdload_0_0_0_36 nd_1_0_2000_7333 0 63.9634
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 63.9634
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 3.12679e-11
rdload_0_0_0_37 nd_1_0_3333_7333 0 200.185
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 200.185
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 9.99076e-12
rdload_0_0_0_38 nd_1_0_4666_7333 0 51.5924
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 51.5924
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 3.87654e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 80.6663
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 80.6663
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 2.47935e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 552.043
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 552.043
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 3.62291e-12
rdload_0_0_0_41 nd_1_0_8666_7333 0 268.605
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 268.605
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 7.44588e-12
rdload_0_0_0_42 nd_1_0_666_8666 0 55.8528
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 55.8528
cd_0_0_0_42 nd_1_0_666_8666_ci 0 3.58084e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 50.5581
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 50.5581
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 3.95585e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 78.344
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 78.344
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 2.55284e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 456.617
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 456.617
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 4.38004e-12
rdload_0_0_0_46 nd_1_0_6000_8666 0 60.6227
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 60.6227
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 3.29909e-11
rdload_0_0_0_47 nd_1_0_7333_8666 0 170.348
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 170.348
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 1.17407e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 49.1997
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 49.1997
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 4.06507e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val138'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val139'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val140'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val141'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val142'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val143'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val144'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val145'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val146'
rd_add0 nd0 0 'esr17'
rd_add1 nd1 0 'esr18'
rd_add2 nd2 0 'esr19'
rd_add3 nd3 0 'esr20'
rd_add4 nd4 0 'esr21'
rd_add5 nd5 0 'esr22'
rd_add6 nd6 0 'esr23'
rd_add7 nd7 0 'esr24'
rd_add8 nd8 0 'esr25'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet3
